* NGSPICE file created from TMRDFFSNQX1.ext - technology: sky130A

.subckt nmos_bottom a_56_54# a_86_84# a_0_0# VSUBS
X0 a_86_84# a_56_54# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.393 ps=2.99 w=3.01 l=0.15
.ends

.subckt pmos2_1 a_144_n460# a_262_n399# a_88_n399# w_52_n435# a_174_n399#
X0 a_174_n399# a_144_n460# a_88_n399# w_52_n435# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.56 ps=4.56 w=2 l=0.15
X1 a_262_n399# a_144_n460# a_174_n399# w_52_n435# sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.29 ps=2.29 w=2 l=0.15
.ends

.subckt nmos_top_trim1 a_86_92# a_56_62# a_0_0# VSUBS
X0 a_86_92# a_56_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.395 ps=2.97 w=3.01 l=0.15
.ends

.subckt nmos_top a_84_92# a_0_0# a_54_62# VSUBS
X0 a_84_92# a_54_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.39 ps=2.96 w=3.01 l=0.15
.ends

.subckt nmos_top_trim2 a_86_92# a_56_62# a_0_0# VSUBS
X0 a_86_92# a_56_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.06 pd=0.56 as=0.395 ps=2.97 w=3.01 l=0.15
.ends

.subckt votern3x1_pcell a_1366_n34# a_1507_944# a_362_381# a_1366_482# a_700_482#
+ w_750_786# m1_449_219# pmos2_1_5/VSUBS a_834_375#
Xnmos_bottom_0 a_834_375# pmos2_1_5/VSUBS nmos_top_0/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xnmos_bottom_1 a_834_375# pmos2_1_5/VSUBS nmos_bottom_1/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xnmos_bottom_2 a_1507_944# pmos2_1_5/VSUBS nmos_bottom_2/a_0_0# pmos2_1_5/VSUBS nmos_bottom
Xpmos2_1_0 a_834_375# w_750_786# w_750_786# w_750_786# a_805_1331# pmos2_1
Xnmos_top_trim1_0 m1_449_219# a_1507_944# nmos_bottom_1/a_0_0# pmos2_1_5/VSUBS nmos_top_trim1
Xpmos2_1_1 a_362_381# w_750_786# w_750_786# w_750_786# a_805_1331# pmos2_1
Xpmos2_1_2 a_1507_944# a_805_1331# a_805_1331# w_750_786# a_893_1059# pmos2_1
Xpmos2_1_3 a_834_375# a_805_1331# a_805_1331# w_750_786# a_893_1059# pmos2_1
Xpmos2_1_4 a_1507_944# a_893_1059# a_893_1059# w_750_786# m1_449_219# pmos2_1
Xpmos2_1_5 a_362_381# a_893_1059# a_893_1059# w_750_786# m1_449_219# pmos2_1
Xnmos_top_0 m1_449_219# nmos_top_0/a_0_0# a_362_381# pmos2_1_5/VSUBS nmos_top
Xnmos_top_trim2_2 m1_449_219# a_362_381# nmos_bottom_2/a_0_0# pmos2_1_5/VSUBS nmos_top_trim2
.ends

.subckt pmos2 a_88_n400# a_144_n461# a_174_n400# a_262_n400# w_52_n436#
X0 a_262_n400# a_144_n461# a_174_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.29 ps=2.29 w=2 l=0.15
X1 a_174_n400# a_144_n461# a_88_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.56 ps=4.56 w=2 l=0.15
.ends

.subckt invx1_pcell a_34_482# a_155_381# a_206_1059# w_n87_786# pmos2_0/VSUBS
Xnmos_top_0 a_206_1059# pmos2_0/VSUBS a_155_381# pmos2_0/VSUBS nmos_top
Xpmos2_0 w_n87_786# a_155_381# a_206_1059# w_n87_786# w_n87_786# pmos2
.ends

.subckt voter3x1_pcell votern3x1_pcell_0/a_1366_n34# votern3x1_pcell_0/a_362_381#
+ votern3x1_pcell_0/a_1507_944# votern3x1_pcell_0/a_700_482# invx1_pcell_0/a_34_482#
+ invx1_pcell_0/w_n87_786# invx1_pcell_0/a_206_1059# VSUBS votern3x1_pcell_0/a_834_375#
Xvotern3x1_pcell_0 votern3x1_pcell_0/a_1366_n34# votern3x1_pcell_0/a_1507_944# votern3x1_pcell_0/a_362_381#
+ invx1_pcell_0/a_34_482# votern3x1_pcell_0/a_700_482# invx1_pcell_0/w_n87_786# m1_1867_797#
+ VSUBS votern3x1_pcell_0/a_834_375# votern3x1_pcell
Xinvx1_pcell_0 invx1_pcell_0/a_34_482# m1_1867_797# invx1_pcell_0/a_206_1059# invx1_pcell_0/w_n87_786#
+ VSUBS invx1_pcell
.ends

.subckt nand2x1_pcell a_31_480# a_362_382# a_229_1059# pmos2_1/VSUBS a_168_375# w_87_786#
Xnmos_bottom_0 a_168_375# pmos2_1/VSUBS nmos_bottom_0/a_0_0# pmos2_1/VSUBS nmos_bottom
Xnmos_top_trim1_0 a_229_1059# a_362_382# nmos_bottom_0/a_0_0# pmos2_1/VSUBS nmos_top_trim1
Xpmos2_0 w_87_786# a_168_375# a_229_1059# w_87_786# w_87_786# pmos2
Xpmos2_1 w_87_786# a_362_382# a_229_1059# w_87_786# w_87_786# pmos2
.ends

.subckt nmos_side_left a_87_91# a_0_0# a_57_61# VSUBS
X0 a_87_91# a_57_61# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0545 pd=0.53 as=0.404 ps=3.02 w=3 l=0.15
.ends

.subckt nand3x1_pcell a_34_482# a_447_377# li_649_449# a_289_1059# pmos2_2/VSUBS a_147_377#
+ w_87_786#
Xnmos_bottom_0 a_147_377# pmos2_2/VSUBS nmos_bottom_0/a_0_0# pmos2_2/VSUBS nmos_bottom
Xnmos_top_trim1_0 a_289_1059# li_649_449# li_393_182# pmos2_2/VSUBS nmos_top_trim1
Xnmos_side_left_0 li_393_182# nmos_bottom_0/a_0_0# a_447_377# pmos2_2/VSUBS nmos_side_left
Xpmos2_0 w_87_786# a_147_377# a_289_1059# w_87_786# w_87_786# pmos2
Xpmos2_1 w_87_786# a_447_377# a_289_1059# w_87_786# w_87_786# pmos2
Xpmos2_2 w_87_786# li_649_449# a_289_1059# w_87_786# w_87_786# pmos2
.ends

.subckt dffsnx1_pcell nand2x1_pcell_5/a_168_375# nand2x1_pcell_2/a_362_382# nand3x1_pcell_1/a_147_377#
+ nand2x1_pcell_2/a_229_1059# m1_1093_871# nand3x1_pcell_1/a_289_1059# m1_2055_427#
+ VSUBS nand3x1_pcell_2/w_87_786# nand3x1_pcell_2/a_34_482#
Xnand2x1_pcell_2 nand3x1_pcell_2/a_34_482# nand2x1_pcell_2/a_362_382# nand2x1_pcell_2/a_229_1059#
+ VSUBS m1_406_797# nand3x1_pcell_2/w_87_786# nand2x1_pcell
Xnand2x1_pcell_5 nand3x1_pcell_2/a_34_482# m1_406_797# m1_537_501# VSUBS nand2x1_pcell_5/a_168_375#
+ nand3x1_pcell_2/w_87_786# nand2x1_pcell
Xnand3x1_pcell_0 nand3x1_pcell_2/a_34_482# m1_1093_871# m1_1351_723# m1_406_797# VSUBS
+ m1_537_501# nand3x1_pcell_2/w_87_786# nand3x1_pcell
Xnand3x1_pcell_1 nand3x1_pcell_2/a_34_482# m1_2055_427# m1_1351_723# nand3x1_pcell_1/a_289_1059#
+ VSUBS nand3x1_pcell_1/a_147_377# nand3x1_pcell_2/w_87_786# nand3x1_pcell
Xnand3x1_pcell_2 nand3x1_pcell_2/a_34_482# m1_2055_427# m1_1351_723# m1_2461_501#
+ VSUBS m1_537_501# nand3x1_pcell_2/w_87_786# nand3x1_pcell
Xnand2x1_pcell_0 nand3x1_pcell_2/a_34_482# m1_1093_871# m1_1351_723# VSUBS m1_2461_501#
+ nand3x1_pcell_2/w_87_786# nand2x1_pcell
.ends

.subckt TMRDFFSNQX1 Q D CLK SN VDD GND
Xvoter3x1_pcell_0 GND m1_9737_537# m1_3704_685# GND GND VDD Q GND m1_13511_907# voter3x1_pcell
Xdffsnx1_pcell_0 D m1_3704_685# m1_3911_833# m1_3911_833# CLK m1_3704_685# SN GND
+ VDD GND dffsnx1_pcell
Xdffsnx1_pcell_1 D m1_9737_537# m1_8727_537# m1_8727_537# CLK m1_9737_537# SN GND
+ VDD GND dffsnx1_pcell
Xdffsnx1_pcell_2 D m1_13511_907# m1_13659_981# m1_13659_981# CLK m1_13511_907# SN
+ GND VDD GND dffsnx1_pcell
.ends

